US05693594
A solution of 30 g (174.3 mmol) ethyl-2-aminothiazole-4-carboxylate [prepared as in Example 1a)] in a mixture of 100 ml HBr (65%) and 100 ml of water was cooled to -15° C. and a solution of 12.03 g (174.3 mmol) sodium nitrite in 40 ml water was added over a period of 30 minutes and the mixture stirred for another 30 minutes at -15° C. After warming to room temperature, the solid was collected, washed with 50 ml cold water and dried to give 23.7 g (57.6%) ethyl-2-bromothiazole-4-carboxylate m.p. 63°-65° C.

reactant | ethyl-2-aminothiazole-4-carboxylate | 174.3 mmol, 30 g | C(C)OC(=O)C=1N=C(SC1)N | C6H8N2O2S
reactant | sodium nitrite | 174.3 mmol, 12.03 g | N(=O)[O-].[Na+]
reactant | HBr | 100 ml | Br | BrH
solvent | water | 100 ml | O | H2O
solvent | water | 40 ml | O | H2O
product | ethyl-2-bromothiazole-4-carboxylate | 23.7 g, 57.6% | C(C)OC(=O)C=1N=C(SC1)Br | C6H6BrNO2S
